US06355636B1
To 250 mg of 4-(3-chloro-4-fluoro-phenylamino)-6-fluoro-[1.7]naphthyridine-3-carbonitrile under an inert atmosphere was added 8 mL of 1 M sodium (2-dimethylamino-ethoxide) in tetrahydrofuran. After refluxing for 2 hours, the reaction was stripped of tetrahydrofaran and water was added. The product was filtered, washed with water, dried, and recrystallized from chloroform/ether/hexanes to give 210 mg (66%) of 4-(3-chloro-4-fluoro-phenylamino)-6-(2-dimethylamino-ethoxy)-[1.7]naphthyridine-3-carbonitrile as a yellow solid: melting point 131-132° C.; mass spectrum (m/e): M+H 386.0.

reactant | 4-(3-chloro-4-fluoro-phenylamino)-6-fluoro-[1.7]naphthyridine-3-carbonitrile | 250 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
reactant | sodium (2-dimethylamino-ethoxide) | 1 M, 8 mL | CN(CC[O-])C.[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(3-chloro-4-fluoro-phenylamino)-6-(2-dimethylamino-ethoxy)-[1.7]naphthyridine-3-carbonitrile | 210 mg, 66% | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)OCCN(C)C)C#N | C19H17ClFN5O
